US08466284B2
In a dry flask, 2,2,6,6-tetramethylpiperidine (0.30 mL, 1.8 mmol) in anhydrous THF (10 mL) under argon was treated with a 1.6M solution of n-butyllithium in hexanes (1.1 mL, 1.8 mmol) at −76° C. during 2 minutes. After stirring for 5 minutes at −76° C., a solution of 1-(4-chlorophenyl)-1H-pyrazole (0.21 g, 1.1 mmol) in anhydrous THF (2 mL) was added over 4 minutes. After stirring for 20 minutes at −76° C., tributyltin chloride (0.30 mL, 1.11 mmol) was added all at once. The resulting mixture was stirred at −76° C. for 10 minutes and at ambient temperature for 5 minutes, then quenched by addition of methanol (1 mL). The mixture was concentrated by rotary evaporation, the residue was taken up in water (20 mL) and washed with ethyl acetate (20 mL). The organic phase was separated, washed with brine (10 mL), dried over anhydrous sodium sulfate, filtered and concentrated by rotary evaporation. Purification of the crude product by flash chromatography on silica with ethyl acetate/n-heptane (1:7) as eluent gave 1-(4-chlorophenyl)-5-tributylstannyl-1H-pyrazole (0.20 g, 40%) as a colourless oil.

reactant | 2,2,6,6-tetramethylpiperidine | 1.8 mmol, 0.30 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-(4-chlorophenyl)-1H-pyrazole | 1.1 mmol, 0.21 g | ClC1=CC=C(C=C1)N1N=CC=C1 | C9H7ClN2
reactant | tributyltin chloride | 1.11 mmol, 0.30 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(4-chlorophenyl)-5-tributylstannyl-1H-pyrazole | 0.20 g, 40% | ClC1=CC=C(C=C1)N1N=CC=C1[Sn](CCCC)(CCCC)CCCC | InChI=1S/C9H6ClN2.3C4H9.Sn/c10-8-2-4-9(5-3-8)12-7-1-6-11-12;3*1-3-4-2;/h1-6H;3*1,3-4H2,2H3;
